US08247396B2
2,2′-(1,2-Ethanediyl)-bis(8-hydroxyquinoline) (Compound 7)
The product has already been described in: C. Kitamura et al., J. Chem. Soc., Perkin Trans. 1 2000, 781-785, from which this stage of synthesis was very slightly altered. It has also been described but obtained by another method of synthesis in: M. Albrecht et al., Synthesis 1999, 10, 1819-1829. A solution of 2,2′-(1,2-ethanediyl)-bis[8-(methyloxy)quinoline] (2.83 g; 8.23 mmol) in 48% hydrobromic acid (150 ml) is heated under reflux for 24 hours. After cooling to ambient temperature, the mixture is neutralised with a 3M aqueous solution of sodium hydroxide, leading to the formation of a green precipitate. The product is extracted with dichloromethane then washed in water and brine. The organic phase is dried over Na2SO4 and the solvent is evaporated under vacuum to yield 7 in the form of a pale green powder (2.53 g; 8.00 mmol, yield=97%). NMR-1H (250 MHz, CDCl3) δ, ppm: 9.35 (s large, 2H); 8.20 (d, 3J (H, H)=8.5 Hz, 2H); 7.53 (d, 3J (H, H)=8.5 Hz, 2H); 7.37 (m, 2H); 7.32 (dd, 3J (H, H)=6.5 Hz, 4J (H, H)=2.0 Hz, 2H); 7.05 (dd, 3J (H, H)=6.5 Hz, 4J (H, H)=2.0 Hz, 2H); 3.57 (s, 4H). MS (CID, NH3) m/z: 317 (MH+). Analysis (%) for C20H16N2O2.0.1NaBr: calculated C, 73.53. H, 4.93. N, 8.58. found C, 73.81. H, 4.73. N, 8.50. UV/vis [CH3OH/20 mM Tris-HCl pH=7.4 containing 150 mM NaCl (1/1, v/v)]: λ nm (ε M−1 cm−1)=204 (71,800), 248 (74,200), 305 (5,200).

reactant | 2,2′-(1,2-ethanediyl)-bis[8-(methyloxy)quinoline] | 8.23 mmol, 2.83 g | C(CC1=NC2=C(C=CC=C2C=C1)OC)C1=NC2=C(C=CC=C2C=C1)OC | C22H20N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | NH3 | N | H3N
reactant | NaCl | 150 mM | [Na+].[Cl-]
solvent | hydrobromic acid | 150 ml | Br | BrH
solvent | CH3OH | 20 mM, pH=7.4 | CO | CH4O
product | 2,2′-(1,2-Ethanediyl)-bis(8-hydroxyquinoline) | yield=97% | C(CC1=NC2=C(C=CC=C2C=C1)O)C1=NC2=C(C=CC=C2C=C1)O | C20H16N2O2
